US05521173
6-(2-Thienyl)pyridine-3-carbonyl chloride
A mixture of 1.8 g of 6-(2-thienyl)pyridine-3-carboxylic acid in 50 ml of thionyl chloride is refluxed under dry conditions for 1 hour. The reaction mixture is evaporated to dryness and evaporated again from 50 ml of carbon tetrachloride to a residue. The residue is dissolved in 60 ml of methylene chloride and used further reactions.

reactant | 6-(2-thienyl)pyridine-3-carboxylic acid | 1.8 g | S1C(=CC=C1)C1=CC=C(C=N1)C(=O)O | C10H7NO2S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-(2-Thienyl)pyridine-3-carbonyl chloride | S1C(=CC=C1)C1=CC=C(C=N1)C(=O)Cl | C10H6ClNOS
